US04033935
One mol by weight of metasilicic acid and one mol by weight of urea are mixed, heated to 95° to 150° C. for 20 to 60 minutes, until the reaction is substantially complete, thereby producing white granules of urea silicate. The said urea silicate is mixed into about one mol of acetoaldehyde in an aqueous solution and the urea silicate goes into solution. The unreacted metasilicic acid is filtered out. About 15% to 25% of said metasilicic acid is filtered out. The urea silicate formaldehyde solution is heated to 70° to 110° C. for 20 to 60 minutes, until the desired viscosity is obtained, thereby producing poly (formaldehyde urea silicate) resin. The resin may be produced as a thick clear resin or a solid, depending on the length of time the resin is heated.

reactant | urea silicate | [Si](O)(O)(O)O.NC(=O)N
reactant | acetoaldehyde | about one mol | C(C)=O | C2H4O
product | formaldehyde urea silicate | [Si](O)(O)(O)O.NC(=O)N.C=O | InChI=1S/CH4N2O.CH2O.H4O4Si/c2-1(3)4;1-2;1-5(2,3)4/h(H4,2,3,4);1H2;1-4H
